US06489322B1
a) 2-[(2-Fluoro-5-nitrobenzyl)amino]ethanol
To 2-fluoro-5-nitrobenzaldehyde (52.4 g, 0.31 mol) in absolute ethanol (500 ml) was added ethanolamine (18.93 g, 0.31 mol) and borane-pyridine complex (31.31 ml, 0.31 mol). The mixture was stirred for 48 h and then evaporated. The residue was acidified with 2.5N hydrochloric acid, extracted with methylene chloride (3×150 ml), and the extracts were discarded. The aqueous phase was basified with 25% aqueous sodium hydroxide and extracted with methylene chloride (4×200 ml). These extracts were washed with saturated brine solution, dried over magnesium sulfate and evaporated to give yellow crystals (37.67 g, 57%), m.p. 98.5-99.5° C.

reactant | 2-fluoro-5-nitrobenzaldehyde | 0.31 mol, 52.4 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | ethanolamine | 0.31 mol, 18.93 g | C(O)CN | C2H7NO
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-[(2-Fluoro-5-nitrobenzyl)amino]ethanol | 37.67 g, 57% | FC1=C(CNCCO)C=C(C=C1)[N+](=O)[O-] | C9H11FN2O3
